US06353006B1
(1S)-1-Phenyl-2-hydroxyethylamine was converted to (1S)-2-chloro-1-phenylethylammonium chloride according to Method B7b. 2-Methyl-4-nitrophenyl isothiocyanate was reacted with (1S)-2-chloro-1-benzylethylammonium chloride according to Method C1a to give (4S)-2-(2-methyl-4-nitrophenylimino)-4-phenyl-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to afford (4S)-2-(2-methyl-4-nitrophenylimino)-4-phenyl-3-isobutyl-1,3-thiazolidine HCl salt.

reactant | (1S)-1-Phenyl-2-hydroxyethylamine | C1(=CC=CC=C1)[C@@H](CO)N | C8H11NO
reactant | (1S)-2-chloro-1-phenylethylammonium chloride | [Cl-].ClC[C@H](C1=CC=CC=C1)[NH3+]
reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | (1S)-2-chloro-1-benzylethylammonium chloride | [Cl-].ClC[C@H](CC1=CC=CC=C1)[NH3+]
product | (4S)-2-(2-methyl-4-nitrophenylimino)-4-phenyl-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC[C@@H](N1)C1=CC=CC=C1 | C16H15N3O2S
